datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0]1([H:2])([H:3])[C:1]([H:4])([H:5])[C:9]([H:14])([H:15])[C:8]([C:10]([H:16])([H:17])[H:18])=[C:7]([H:13])[C:6]1([H:11])[H:12],123.888
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7](=[C:8]([C:9]([H:14])[H:15])[H:12])([H:10])[H:11],21.3384
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11][S:12][H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11](=[C:10]([H:13])[H:14])[S:12][H:15],-40.1664
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:23])[H:7])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])([H:20])([H:21])[H:22],47.6976
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],40.5011
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([H:20])([H:21])[H:22])[H:9],20.2087
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:13])([H:11])[H:12],142.758
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0](#[C:1][C:2]([C:3]1([H:9])[C:4]([H:10])([H:11])[C:5]1([C:6]([H:13])([H:14])[H:15])[H:12])[H:8])[H:7],23.5978
[C:0](#[C:1][H:3])[H:2].[O:4]>>[C:0]#[C:1][H:3].[H:2][O:4],121.1268
[C-:0]#[S+:1].[C:2]([C:3]([H:6])([H:7])[H:8])([H:4])[H:5]>>[C:0](=[S:1])[C:2]([C:3]([H:6])([H:7])[H:8])([H:4])[H:5],1.63176
[C:0]([S:1][H:4])([H:2])[H:3].[c:5]1([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16]>>[C:0]([S:1][H:4])([H:2])([H:3])[H:11].[c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16],109.621
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][H:10],-1.2552
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]#[C:8][H:9]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]#[C:8][H:9],0.0
[C:0](=[S:1])([H:2])[H:3].[S:4]([C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13])[H:12]>>[C:0](=[S:1])[H:3].[H:2][C:5]([S:4][H:12])([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13],127.277
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],19.6648
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[S:9]=[C:10]([C:11]([S:12][H:15])[H:14])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[S:9])[H:13])([S:12][H:15])[H:14],134.934
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][H:13],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:30][O:31],199.11656
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[H:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][H:14],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])[H:7].[H:8][H:19],0.0
